US04835280
7,7-Dimethyl-2-(1,2,5-thiadiazol-3-yl)-6,7-dihydro-3H,5H-pyrrolo[2,3-f]benzimidazol-6-one
2.0 g. (15.3 mmol) 1,2,5-thiadiazole-3-carboxylic acid and 2.6 g. (13.6 mmol) 5,6-diamino-3,3-dimethyl-indolin-2-one are heated in 40 ml. polyphosphoric acid under an atmosphere of nitrogen for 2 hours at 160° C. The warm solution is poured on to ice water, worked up and the crystals obtained are filtered off with suction. The residue is again suspended in water, neutralised with an aqueous solution of ammonia, filtered off with suction and recrystallised from methanol with the addition of charcoal. Yield: 2.6 g. (66% of theory); m.p. >300° C.

reactant | 1,2,5-thiadiazole-3-carboxylic acid | 15.3 mmol | S1N=C(C=N1)C(=O)O | C3H2N2O2S
reactant | 5,6-diamino-3,3-dimethyl-indolin-2-one | 13.6 mmol | NC=1C=C2C(C(NC2=CC1N)=O)(C)C | C10H13N3O
product | 7,7-Dimethyl-2-(1,2,5-thiadiazol-3-yl)-6,7-dihydro-3H,5H-pyrrolo[2,3-f]benzimidazol-6-one | CC1(C(NC2=CC3=C(N=C(N3)C3=NSN=C3)C=C21)=O)C | C13H11N5OS
